US07816395B2
d) 2-Chloro-4-{[(3S)-1-methyl-5-oxo-3-pyrrolidinyl]amino}benzonitrile
1,1-Dimethylethyl [(3S)-1-methyl-5-oxo-3-pyrrolidinyl]carbamate (0.96 g, 4.5 mmol) was suspended in 4N HCl in dioxane (3 mL) and the mixture was stirred at room temperature for 12 h. Solvent was removed and the residue was dissolved in DMSO (27 mL) and H2O (3 mL). To this solution, 2-chloro-4-fluorobenzonitrile (0.77 g, 4.90 mmol) and NaHCO3 (1.89 g, 22.5 mmol) were added and the reaction mixture was stirred at 75° C. for 18 h. After cooling to room temperature, the reaction mixture was partitioned between H2O and EtOAc and the organic layer was dried over Na2SO4, filtered, and concentrated. The residue was purified by silica gel chromatography with 0% MeOH in CH2Cl2 grading to 5% MeOH in CH2Cl2 to give the titled product (0.598 g, 53%) as a white solid. 1H-NMR (CDCl3) δ: 2.350 (1H, m), 2.914 (4H, m), 3.305 (1H, m), 3.825 (1H, m), 4.200 (1H, m), 4.835 (1H, d, J=6.8 Hz), 6.492 (1H, dd, J=8.4 Hz, 2.4 Hz), 6.626 (1H, d, J=2.4 Hz), 7.454 (1H, d, J=8.4 Hz). LC-MS (ES) m/e 250.0 (M+H)+.

reactant | 1,1-Dimethylethyl [(3S)-1-methyl-5-oxo-3-pyrrolidinyl]carbamate | 4.5 mmol, 0.96 g | CN1C[C@H](CC1=O)NC(OC(C)(C)C)=O | C10H18N2O3
reactant | 2-chloro-4-fluorobenzonitrile | 4.90 mmol, 0.77 g | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
reactant | NaHCO3 | 22.5 mmol, 1.89 g | C(=O)(O)[O-].[Na+]
solvent | HCl | 4N | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-4-{[(3S)-1-methyl-5-oxo-3-pyrrolidinyl]amino}benzonitrile | 0.598 g, 53% | ClC1=C(C#N)C=CC(=C1)N[C@@H]1CN(C(C1)=O)C | C12H12ClN3O
